US08497368B2
1-(Quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carbohydrazonamide (64.2)
To a solution of 1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carbonitrile (80 mg, 0.278 mmol) in EtOH (3 mL), was added hydrazine hydrate (18.12 mg, 0.362 mmol). The reaction was heated to 60° C. overnight. The mixture was filtered and washed with EtOH, H2O, and EtOH to give a yellow solid. 1H-NMR (400 MHz, DMSO-d6+D2O) δ ppm 9.29 (s, 1H), 8.88 (s, 1H), 8.34 (d, 1H), 8.01 (m, 2H), 7.83 (d, 1H), 7.52 (m, 1H), 6.16 (s, 2H). LCMS (method B): [MH]+=320, tR=1.03 min.

reactant | 1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carbonitrile | 0.278 mmol, 80 mg | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)C#N | C15H9N7
reactant | hydrazine hydrate | 0.362 mmol, 18.12 mg | O.NN
solvent | EtOH | 3 mL | CCO | C2H6O
product | 1-(Quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carbohydrazonamide | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)C(N)=NN | C15H13N9
